US08030489B2
To a mixture of methyl rel-(1R,2S)-2-{[(benzyloxy)carbonyl]amino}cyclobutanecarboxylate (1.0 g), methanol (20 ml) and 1 M hydrochloric acid (4.0 ml) was added palladium-carbon (4.0 g) at room temperature, followed by stirring at room temperature for 2 hours under a hydrogen atmosphere. The insolubles in the reaction mixture were separated by filtration through Celite and the filtrate was concentrated under reduced pressure. To the residue were added ethyl acetate and acetonitrile, the solid precipitated was separated by filtration, and the filtrate was concentrated to obtain methyl rel-(1R,2S)-2-aminocyclobutanecarboxylate hydrochloride (0.70 g). Methyl rel-(1R,2S)-2-({N5-[(benzyloxy)carbonyl]-N2-[(1-methyl-1H-indol-2-yl)carbonyl]-L-ornithyl}amino)cyclobutanecarboxylate (0.45 g) was obtained by using methyl rel-(1R,2S)-2-aminocyclobutanecarboxylate hydrochloride (0.31 g) in the same method as for Production Process A1.

reactant | methyl rel-(1R,2S)-2-{[(benzyloxy)carbonyl]amino}cyclobutanecarboxylate | 1.0 g | C(C1=CC=CC=C1)OC(=O)N[C@@H]1[C@@H](CC1)C(=O)OC | C14H17NO4
reactant | hydrochloric acid | 1 M, 4.0 ml | Cl | ClH
catalyst | palladium-carbon | 4.0 g | [C].[Pd]
solvent | methanol | 20 ml | CO | CH4O
product | methyl rel-(1R,2S)-2-aminocyclobutanecarboxylate hydrochloride | 0.70 g | Cl.N[C@@H]1[C@@H](CC1)C(=O)OC | InChI=1S/C6H11NO2.ClH/c1-9-6(8)4-2-3-5(4)7;/h4-5H,2-3,7H2,1H3;1H/t4-,5+;/m1./s1
